US07550607B2
Preparation of trans-3-acetoxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester
To a solution of trans-3-hydroxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester (70 mg, 0.41 mmol) and DMAP (24 mg, 0.2 mmol) in CH2Cl2-Et3N (9:1, 5 mL) was added Ac2O (54 mg, 0.53 mmol). The resulting solution was stirred at ambient temperature for 2 H. The solution was diluted with CH2C12 (40 mL), washed with H2O (20 mL×2), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography with 20% EtOAc-hexane.

reactant | trans-3-hydroxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 0.41 mmol, 70 mg | C(C)OC(=O)[C@@H]1OCC=C[C@H]1O | C8H12O4
reactant | Ac2O | 0.53 mmol, 54 mg | CC(=O)OC(=O)C | C4H6O3
catalyst | DMAP | 0.2 mmol, 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 Et3N | 5 mL | C(Cl)Cl.CCN(CC)CC
product | trans-3-acetoxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1OCC=C[C@H]1OC(C)=O | C10H14O5
